US08809371B2
Morpholine (0.5 ml) was added to a 1,4-dioxane solution (1 ml) containing 2-chloro-5-nitro-3-(2H-1,2,3-triazol-2-yl)pyridine (30 mg), followed by stirring at room temperature for 30 minutes. Water was added to the reaction solution, followed by extraction with ethyl acetate. The resultant was washed with saturated saline and dried over anhydrous sodium sulfate, the solvent was distilled away under reduced pressure, and a yellow solid of 5-nitro-2-morpholino-3-(2H-1,2,3-triazol-2-yl)pyridine (33 mg) was thus obtained.

reactant | Morpholine | 0.5 ml | N1CCOCC1 | C4H9NO
reactant | 1,4-dioxane | 1 ml | O1CCOCC1 | C4H8O2
reactant | 2-chloro-5-nitro-3-(2H-1,2,3-triazol-2-yl)pyridine | 30 mg | ClC1=NC=C(C=C1N1N=CC=N1)[N+](=O)[O-] | C7H4ClN5O2
solvent | Water | O | H2O
product | 5-nitro-2-morpholino-3-(2H-1,2,3-triazol-2-yl)pyridine | 33 mg | [N+](=O)([O-])C=1C=C(C(=NC1)N1CCOCC1)N1N=CC=N1 | C11H12N6O3
